US05643908
4-(S)-Isopropyl-3-(1-oxooctyl)-2-oxazolidinone
Following the procedure described in Referential Example 3, but using 4-(S)-isopropyl-2-oxazolidinone (5.06 g) and octanoyl chloride (6.67 g), the desired compound (9.39 g) was obtained.

reactant | 4-(S)-isopropyl-2-oxazolidinone | 5.06 g | C(C)(C)[C@@H]1NC(OC1)=O | C6H11NO2
reactant | octanoyl chloride | 6.67 g | C(CCCCCCC)(=O)Cl | C8H15ClO
product | 4-(S)-Isopropyl-3-(1-oxooctyl)-2-oxazolidinone | 9.39 g | C(C)(C)[C@@H]1N(C(OC1)=O)C(CCCCCCC)=O | C14H25NO3
